US09145380B2
c) 2-[2-(4-Chloro-phenyl)-ethanesulfonylamino]-5-hydroxy-benzenesulfonamide
To a solution of 2-[2-(4-chloro-phenyl)-ethanesulfonylamino]-5-methoxy-benzenesulfonamide (4.0 g, 9.90 mmol) in DCM (250 mL) at −78° C., BBr3 (1M in DCM, 70 mL, 70 mmol) was added dropwise over 20 minutes. The reaction mixture was allowed to warm to RT and the stirring was continued overnight. The reaction mixture was then cooled to −78° C., quenched by addition of methanol (20 mL) and water (50 mL), and the product was extracted with ethyl acetate. The organic extracts were washed with water, dried over sodium sulfate and concentrated under reduced pressure. The crude product was recrystallized from methanol to the title compound (3.45 g, 92%).

reactant | 2-[2-(4-chloro-phenyl)-ethanesulfonylamino]-5-methoxy-benzenesulfonamide | 9.90 mmol, 4.0 g | ClC1=CC=C(C=C1)CCS(=O)(=O)NC1=C(C=C(C=C1)OC)S(=O)(=O)N | C15H17ClN2O5S2
reactant | BBr3 | 70 mmol, 1M, 70 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | 2-[2-(4-Chloro-phenyl)-ethanesulfonylamino]-5-hydroxy-benzenesulfonamide | ClC1=CC=C(C=C1)CCS(=O)(=O)NC1=C(C=C(C=C1)O)S(=O)(=O)N | C14H15ClN2O5S2
